US09193724B2
Copper cyanide (1.87 g, 0.021 mol) was added at room temperature to a sealed tube containing a solution of 3-bromo-5-fluoro-4-methylpyridine (E; 2.0 g, 0.0105 mol) in dimethylformamide (20 mL). The reaction mixture was heated to 150° C. for 16 h. It was then cooled to RT, quenched with 20% aqueous ammonia (30 mL) solution and stirred for 5 min. The reaction mixture was extracted with diethyl ether (2×100 mL). The organic layers were washed with water (2×50 mL), dried over anhydrous sodium sulphate and concentrated to afford 5-fluoro-4-methylnicotinonitrile. 1H NMR (400 MHz, CDCl3) δ 8.62 (s, 1H), 8.56 (s, 1H), 2.56 (s, 3H).

reactant | Copper cyanide | 0.021 mol, 1.87 g | [Cu](C#N)C#N
reactant | 3-bromo-5-fluoro-4-methylpyridine | 0.0105 mol, 2.0 g | BrC=1C=NC=C(C1C)F | C6H5BrFN
solvent | dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
product | 5-fluoro-4-methylnicotinonitrile | FC=1C=NC=C(C#N)C1C | C7H5FN2
